US06162824
Step 4: 1-(9-Phenyl-9-fluorenoxy)cyclopropane carboxaldehyde
A suspension of 2-[1-(9-Phenyl-9-fluorenoxy)cyclopropyl]-1,2-dihydroxyethane in THF:H2O is treated with NalO4 (1.1 eq). The resulting suspension is stirred at room temperature for 4h and then diluted with H2O and EtOAc. The EtOAc extract is washed consecutively with 10% aq sodium thiosulfate solution and then brine. The EtOAc layer is dried (Na2SO4) and concentrated in vacuo. The crude product is purified by filtration through a short pad of silica gel.

reactant | 2-[1-(9-Phenyl-9-fluorenoxy)cyclopropyl]-1,2-dihydroxyethane | C1(=CC=CC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)OC1(CC1)C(CO)O | C24H22O3
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(9-Phenyl-9-fluorenoxy)cyclopropane carboxaldehyde | C1(=CC=CC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)OC1(CC1)C=O | C23H18O2
